US07776875B2
Preparation of Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-5-fluoro-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A solution of racemic (2′S,3S,4′R)-6-chloro-5-fluoro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-ethyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (100 mg, 0.16 mmol) and CDI (123 mg, 0.64 mmol) in DMF (3 mL) was heated at 75° C. for 3 h. Then to this solution was added a mixture of methanesulfonamide (144 mg, 1.5 mmol) and NaH (53 mg, 60%,1.3 mmol) in DMF (1.5 mL), which had been previously stirred at room temperature for 2 h. After the resulting mixture was stirred at room temperature for 20 mins, it was poured into water and the aqueous solution was acidified by diluted HCl solution. After the aqueous phase was extracted with EtOAc twice, the combined organic phases were dried over anhydrous Na2SO4, concentrated and the residue was purified by flash column to give the title compound (50 mg).

reactant | racemic (2′S,3S,4′R)-6-chloro-5-fluoro-4′-[5-chloro-2-(1-hydroxycarbonyl-1-ethyl-propoxy)-phenyl]-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.16 mmol, 100 mg | ClC1=C(C=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(CC)(CC)C(=O)O)=O)C1=C(C=CC(=C1)F)C)=O)F | C31H28Cl2F2N2O5
reactant | CDI | 0.64 mmol, 123 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methanesulfonamide | 1.5 mmol, 144 mg | CS(=O)(=O)N | CH5NO2S
reactant | NaH | 1.3 mmol, 53 mg | [H-].[Na+]
reactant | HCl | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Racemic (2′S,3S,4′R)-6-chloro-4′-[5-chloro-2-(2-methanesulfonylamino-1,1-diethyl-2-oxo-ethoxy)-phenyl]-5-fluoro-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 50 mg | ClC1=C(C=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)OC(C(=O)NS(=O)(=O)C)(CC)CC)=O)C1=C(C=CC(=C1)F)C)=O)F | C32H31Cl2F2N3O6S
